US05905088
(a) Preparation of 3-iodo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-ol
A 3.6% sodium perchlorate solution was added dropwise to a mixture of 5,5,8,8-tetramethyl-5,6,7,8tetrahydronaphthalen-2-ol(6.35 g, 31.1 mmol), sodium hydroxide (1.23 g, 34.2 mmol) and sodium iodide (4.6 g, 31.1 mmol) in methanol (115 ml), at 0° C. The mixture was maintained under stirring for two hours at 0° C. 33 ml of a 10% sodium thiosulfate solution were added. After stirring, the mixture was acidified with hydrochloric acid to pH 1. It was extracted with 200 ml of ethyl ether. The organic phase was washed twice with 400 ml of water, dried over magnesium sulfate and concentrated in a rotary evaporator under vacuum at 40° C.

reactant | sodium perchlorate | Cl(=O)(=O)(=O)[O-].[Na+]
reactant | 5,5,8,8-tetramethyl-5,6,7,8tetrahydronaphthalen-2-ol | 31.1 mmol, 6.35 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)O)C | C14H20O
reactant | sodium hydroxide | 34.2 mmol, 1.23 g | [OH-].[Na+]
reactant | sodium iodide | 31.1 mmol, 4.6 g | [I-].[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 115 ml | CO | CH4O
product | 3-iodo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-ol | IC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)O | C14H19IO
